US05814694
Luviskol VA-64:
Copolymer of N-vinylpyrrolidone and vinyl acetate (6:4) (BASF Japan).

reactant | N-vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
product | Luviskol VA-64 | CC(=O)OC=C.C=CN1CCCC1=O | InChI=1S/C6H9NO.C4H6O2/c1-2-7-5-3-4-6(7)8;1-3-6-4(2)5/h2H,1,3-5H2;3H,1H2,2H3
